US06251925B1
5-(3-Aminophenyl)-4-pyridinecarboxylic acid ethyl ester
To a solution of 5-(3-nitrophenyl)-4-pyridinecarboxyiic acid ethyl ester in ethyl acetate (20 mL) was added tin(II) chloride (1.47 g). The mixture was heated at 80° C. for 45 min, then allowed to cool to ambient temperature. The mixture was poured into ice and saturated aqueous sodium bicarbonate was added until the mixture attained a pH of approximately 7. Celite and ethyl acetate were added, and the mixture was stirred for 10 min. The mixture was filtered and placed in a separatory funnel. The organic layer was separated, dried over sodium sulfate, filtered and concentrated to yield the crude product. Purification by silica gel chromatography (4:1 hexane: ethyl acetate) afforded the title compound as an orange oil (216 mg).

reactant | 5-(3-nitrophenyl)-4-pyridinecarboxyiic acid ethyl ester | C(C)OC(=O)C1=CC=NC=C1C1=CC(=CC=C1)[N+](=O)[O-] | C14H12N2O4
reactant | tin(II) chloride | 1.47 g | [Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-(3-Aminophenyl)-4-pyridinecarboxylic acid ethyl ester | 216 mg | C(C)OC(=O)C1=CC=NC=C1C1=CC(=CC=C1)N | C14H14N2O2
